US06008243
As described for Example 4(a) for the preparation of N-(1(S)-benzyl-2-hydroxyethyl)-3(R)-[3-(4'-cyano-biphenyl-4-yl)-1H-pyrrol-1-yl]succinamic acid benzyl ester, crude 3-(4'-carboxamidobiphenyl)-2,5-dimethoxy-tetrahydrofuran and 3(R)-amino-N-(1-hydroxymethyl-2,2-dimethyl-propyl)succinamic acid benzyl ester trifluoroacetate salt were condensed in 1,2-dichloroethane to furnish 110 mg (41%) of 3(R)-[3-(4'-carbamoylbiphenyl-4-yl)-1H-pyrrol-1-yl]-N-(1(S)-hydroxymethyl-2,2-dimethyl-propyl)succinamic acid benzyl ester as a solid, mp 201-3° C. 1H NMR (CDCl3): δ 7.88 (d, 2H, J=8.1 Hz), 7.69 (d, 2H, J=8.4 Hz), 7.61 (d, 2H, J=8.4 Hz), 7.56 (d, 2H, J=8.7 Hz), 7.36-7.26 (m, 5H), 7.10 (d, 1H, J=1.9 Hz), 6.81 (d, 1H, J=2.5 Hz), 6.61 (t, 1H, J=1.6 Hz), 5.60-5.56 (m, 1H), 5.10-5.02 (m, 3H), 3.80-3.70 (m, 2H), 3.50-3.38 (m, 3H), 3.24 (dd, 1H, J=4.0, 17.0 Hz), 0.80 (s, 9H). IR KBr): 3356, 2961, 1735, 1655, 1606, 1560, 1542, 1406, 1200 cm-1. Anal. Calculated for C34H37N3O5.0.25 CH2Cl2 : C, 69.85; H, 6.42; N, 7.14. Found: C, 69.82, H, 6.67; N, 7.12.

reactant | N-(1(S)-benzyl-2-hydroxyethyl)-3(R)-[3-(4'-cyano-biphenyl-4-yl)-1H-pyrrol-1-yl]succinamic acid benzyl ester | C(C1=CC=CC=C1)OC(C[C@H](C(=O)N[C@H](CO)CC1=CC=CC=C1)N1C=C(C=C1)C1=CC=C(C=C1)C1=CC=C(C=C1)C#N)=O | C37H33N3O4
reactant | 3(R)-amino-N-(1-hydroxymethyl-2,2-dimethyl-propyl)succinamic acid benzyl ester trifluoroacetate salt | FC(C(=O)O)(F)F.C(C1=CC=CC=C1)OC(C[C@H](C(=O)NC(C(C)(C)C)CO)N)=O
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
product | 3(R)-[3-(4'-carbamoylbiphenyl-4-yl)-1H-pyrrol-1-yl]-N-(1(S)-hydroxymethyl-2,2-dimethyl-propyl)succinamic acid benzyl ester | 110 mg, 41% | C(C1=CC=CC=C1)OC(C[C@H](C(=O)N[C@@H](C(C)(C)C)CO)N1C=C(C=C1)C1=CC=C(C=C1)C1=CC=C(C=C1)C(N)=O)=O | C34H37N3O5
